### PR TITLE
Added lemmas lookupN_replicateN_Some and lookupN_replicateN_None

### PR DESCRIPTION
**Pull request by LennartATSkylabsAI**

### CODE REVIEW

File: rocq-skylabs-prelude/theories/list_numbers.v [hunk 1]
```diff
@@ -869,10 +869,29 @@ Section listN.
     is_Some (xs !! i) -> i < lengthN xs.
   Proof. by rewrite lookupN_is_Some. Qed.
 
+  Lemma lookupN_replicateN_Some n x i y :
+    lookupN i (replicateN n x) = Some y <-> y=x /\ i < n.
```
Comment (simon-skylabs) [inline rocq-skylabs-prelude/theories/list_numbers.v:873]: Can add a version of this lemma using `lookup` for `Z` please? The notation `lookupZ` does not exist I believe and you may want to define it next to the instance.

File: rocq-skylabs-prelude/theories/list_numbers.v [hunk 2]
```diff
@@ -869,10 +869,29 @@ Section listN.
...
+    - destruct (decide (i < n)); [ exfalso | lia].
+      destruct (lookupN_replicateN_Some n x i x) as [_ HH].
+      rewrite HH in H; [ congruence | auto].
+    - remember (replicateN n x !! i) as d; destruct d; trivial; symmetry in Heqd.
+      apply lookupN_replicateN_Some in Heqd; destruct Heqd; lia.
+  Qed.
+
   Lemma lookupN_replicateN n x i :
     lookupN i (replicateN n x) = Some x <-> i < n.
   Proof.
```
Comment (simon-skylabs) [inline rocq-skylabs-prelude/theories/list_numbers.v:892]: Can you explain why you rewrote this proof?

Comment (simon-skylabs) [reply rocq-skylabs-prelude/theories/list_numbers.v:892]: You could probably shorten it as:

```
rewrite lookupN_replicateN_Some; lia.
```

It might by that `by []` or `auto` could work instead of `lia` but I'm not certain.

File: rocq-skylabs-prelude/theories/list_numbers.v [hunk 3]
```diff
@@ -869,10 +869,29 @@ Section listN.
...
 
+  Lemma lookupN_replicateN_Some n x i y :
+    lookupN i (replicateN n x) = Some y <-> y=x /\ i < n.
+  Proof.
+    rewrite -lookupN_fold /replicateN lookup_replicate. intuition; lia.
+  Qed.
+
+  Lemma lookupN_replicateN_None n x i :
+    lookupN i (replicateN n x) = None <-> n <= i.
+  Proof.
```
Comment (simon-skylabs) [inline rocq-skylabs-prelude/theories/list_numbers.v:880]: I'm surprised that this proof is longer than that of `lookupN_replicateN_Some` and that it requires case analysis.

I think you could write something like:

```
  have suff : (exists y, lookupN i (replicateN n x) = Some y) <-> (exists y, x = y /\ i < n).
  { (* the lhs is `is_Some` and that's equivalent to ` = None` *) }
  by setoid_rewrite lookupN_replicateN_Some.
```

Comment (simon-skylabs) [reply rocq-skylabs-prelude/theories/list_numbers.v:880]: Can you also add a version for `lookupZ`? I'm thinking something like:

```
 forall (i : Z) (n : N), lookupZ i (replicateN n x) = Some y <-> x = y /\ 0 <= i < Z.of_N n
```

File: rocq-skylabs-prelude/theories/list_numbers.v [hunk 4]
```diff
@@ -1466,6 +1484,50 @@ Section listZ.
...
+    - destruct H.
+      apply lookupN_replicateN_Some in H0.
+      intuition; lia.
+    - destruct H; subst.
+      split; [ lia |].
+      apply lookupN_replicateN_Some; split; [ trivial | lia].
+  Qed.
+
+  Lemma lookupZ_replicateN_None {A} (n:N) (x:A) (i:Z) :
+    (replicateZ n x) !! i = None <-> i < 0 \/ (0 <= i /\ Z.of_N n <= i).
```
Comment (simon-skylabs) [inline rocq-skylabs-prelude/theories/list_numbers.v]:
```suggestion
    (replicateZ n x) !! i = None <-> i < 0 \/ Z.of_N n <= i.
```

File: rocq-skylabs-prelude/theories/list_numbers.v [hunk 5]
```diff
@@ -869,10 +869,27 @@ Section listN.
...
+    rewrite -lookupN_fold /replicateN lookup_replicate. intuition; lia.
+  Qed.
+
+  Lemma lookupN_replicateN_None n x i :
+    lookupN i (replicateN n x) = None <-> n <= i.
+  Proof.
+    have suff : (exists y, lookupN i (replicateN n x) = Some y) <-> (exists y, y=x /\ i < n).
+    - rewrite eq_None_not_Some. unfold is_Some. intuition.
+      + destruct (decide (n ≤ i)%N); trivial.
+        elim H; apply H1; exists x; intuition; lia.
```
Comment (simon-skylabs) [inline rocq-skylabs-prelude/theories/list_numbers.v]:
```
elim H; apply H1; exists x; intuition; lia.
     -        --
```

I assume `H` and `H1` are created by `destruct` or `intuition`. Please use a pattern with `destruct` to name them or intro and name them explicitly instead of letting `intuition` do it. The general norm is: like in most programming language, we should declare an identifier before using it. If your proof script does not refer to a variable, it's ok to let tactics pick a name for it. Otherwise, declaration before use allows us to fix a proof more easily when it breaks.

This where the ssreflect identifiers come in handy. `move => *` and `move =>>` are respectively like `intros **` and `intros *` but the identifiers they pick for you can't be referenced in your proof script. It makes it easier to write maintainable proofs.

File: rocq-skylabs-prelude/theories/list_numbers.v [hunk 6]
```diff
@@ -1498,7 +1498,7 @@ Section listZ.
   Qed.
 
   Lemma lookupZ_replicateN_None {A} (n:N) (x:A) (i:Z) :
-    (replicateZ n x) !! i = None <-> i < 0 \/ (0 <= i /\ Z.of_N n <= i).
+    (replicateZ n x) !! i = None <-> i < 0 \/ Z.of_N n <= i.
```
Comment (simon-skylabs) [inline rocq-skylabs-prelude/theories/list_numbers.v]:
```
(replicateZ n x) -> replicateZ n x
```

Comment (LennartATSkylabsAI) [reply rocq-skylabs-prelude/theories/list_numbers.v]: Done

File: rocq-skylabs-prelude/theories/list_numbers.v (hunk 4 above)
Comment (LennartATSkylabsAI) [reply rocq-skylabs-prelude/theories/list_numbers.v]: Done

File: rocq-skylabs-prelude/theories/list_numbers.v [hunk 7]
```diff
@@ -1466,6 +1485,58 @@ Section listZ.
...
+    - intros [Hi R].
+      apply lookupN_replicateN_Some in R.
+      intuition; lia.
+    - intros [? ?]; subst.
+      split; [ lia |].
+      apply lookupN_replicateN_Some; split; [ trivial | lia].
+  Qed.
+
+  Lemma lookupZ_replicateZ_None {A} (z:Z) (x:A) (i:Z) :
+    replicateZ z x !! i = None <-> i < 0 \/ (0 <= i /\ z <= i).
```
Comment (simon-skylabs) [inline rocq-skylabs-prelude/theories/list_numbers.v]:
```suggestion
    replicateZ z x !! i = None <-> i < 0 \/ z <= i.
```

File: rocq-skylabs-prelude/theories/list_numbers.v [hunk 8]
```diff
@@ -1466,6 +1485,58 @@ Section listZ.
...
+  Qed.
+
+  Lemma lookupN_replicateZ_Some {A} (z:Z) (x:A) (n:N) y :
+    replicateZ z x !! n = Some y <-> y=x /\ (n < Z.to_N z)%N.
+  Proof.
+    apply lookupN_replicateN_Some.
+  Qed.
+
+  Lemma lookupN_replicateZ_None {A} (z:Z) (x:A) (n:N) :
+    replicateZ z x !! n = None <-> (Z.to_N z <= n)%N.
```
Comment (simon-skylabs) [inline rocq-skylabs-prelude/theories/list_numbers.v:1533]: I can see how `lookupN` / `replicateZ` makes sense in a combinatorics sense but unless you have a specific need for it, I would leave this out.

Since I wrote a standalone definition for `dropZ` and `takeZ`, I'm really tempted to do the same with `replicateZ` and avoid mixing and matching. Maybe you and I can do this soon.

File: rocq-skylabs-prelude/theories/list_numbers.v [hunk 9]
```diff
@@ -1466,6 +1485,58 @@ Section listZ.
...
+    replicateZ z x !! i = None <-> i < 0 \/ (0 <= i /\ z <= i).
+  Proof.
+    rewrite lookupZ_None lengthN_replicateN.
+    intuition.
+    - destruct (decide (i < 0)); [ left; trivial | right; lia].
+    - right; lia.
+  Qed.
+
+  Lemma lookupN_replicateZ_Some {A} (z:Z) (x:A) (n:N) y :
+    replicateZ z x !! n = Some y <-> y=x /\ (n < Z.to_N z)%N.
```
Comment (simon-skylabs) [inline rocq-skylabs-prelude/theories/list_numbers.v:1527]: Same comment regarding `lookupN` / `replicateZ`

**Review by simon-skylabs — APPROVED** [review]
Thanks for bearing with me through the nit picking. One more thing and I think we can merge it.

File: rocq-skylabs-prelude/theories/list_numbers.v (hunk 7 above)
Comment (LennartATSkylabsAI) [reply rocq-skylabs-prelude/theories/list_numbers.v]: Done in next commit.

File: rocq-skylabs-prelude/theories/list_numbers.v (hunk 9 above)
Comment (LennartATSkylabsAI) [reply rocq-skylabs-prelude/theories/list_numbers.v:1527]: OK, I commented out these two lemmas in the next commit.

File: rocq-skylabs-prelude/theories/list_numbers.v (hunk 8 above)
Comment (LennartATSkylabsAI) [reply rocq-skylabs-prelude/theories/list_numbers.v:1533]: Done - see next comment.

**Comment by LennartATSkylabsAI** [comment]
Thanks for the nitpicking and approving. I'll merge when CI is green.

File: rocq-skylabs-prelude/theories/list_numbers.v (hunk 1 above)
Comment (LennartATSkylabsAI) [reply rocq-skylabs-prelude/theories/list_numbers.v:873]: Done

File: rocq-skylabs-prelude/theories/list_numbers.v (hunk 2 above)
Comment (LennartATSkylabsAI) [reply rocq-skylabs-prelude/theories/list_numbers.v:892]: Cleaned up proof

File: rocq-skylabs-prelude/theories/list_numbers.v (hunk 3 above)
Comment (LennartATSkylabsAI) [reply rocq-skylabs-prelude/theories/list_numbers.v:880]: Done

File: rocq-skylabs-prelude/theories/list_numbers.v (hunk 5 above)
Comment (LennartATSkylabsAI) [reply rocq-skylabs-prelude/theories/list_numbers.v]: Done
